* gnetlist -g spice-sdb -o complex.cir complex.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
C3 2 4 2.2mF  
L1 0 4 2mH 
R3 3 4 150  
C2 0 3 4uf  
R2 1 3 1k  
V1 2 0 5
C1 1 2 2.2uF  
R1 1 0 750  
.end
